US07811595B2
Preparation of 2-[(3,5-dihydroxy-pyridine-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester (18):
A solution of 2-[(3,5-bis-benzyloxy-pyridine-2-carbonyl)-amino]-2-methylpropionic acid methyl ester, 17, (0.58 g, 1.34 mmol) in MeOH (100 mL) containing 10% Pd/C (0.116 g) is stirred under an atmosphere of H2 for 22 hours. The reaction solution is filtered through Celite™ and the collected solids are washed with hot MeOH. The combined filtrate and washings are concentrated under reduced pressure to afford 0.321 g (94% yield) of the desired compound as a grey solid. 1H NMR (250 MHz, MeOD) δ ppm 7.67 (1H, d, J=2.4 Hz), 6.58 (1H, d, J=2.4 Hz), 3.69 (3H, s), 1.56 (6 H, s). HPLC-MS: m/z 255 [M+H]+.

reactant | 2-[(3,5-bis-benzyloxy-pyridine-2-carbonyl)-amino]-2-methylpropionic acid methyl ester | COC(C(C)(C)NC(=O)C1=NC=C(C=C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C25H26N2O5
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 0.116 g | [Pd] | Pd
product | 2-[(3,5-dihydroxy-pyridine-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester | 0.321 g, 94% yield | COC(C(C)(C)NC(=O)C1=NC=C(C=C1O)O)=O | C11H14N2O5
